US08193351B2
Step 3: 5-Nitro-6-cyano-1H,3H benzo[de]isochromene
5-Nitro-6-bromo-1H,3H-benzo[de]isochromene (23.0 g, 78.2 mmol) was dissolved in anhydrous DMF (500 mL). Then, copper (I) cyanide (10.5 g, 117 mmol) was added to the mixture at room temperature. The mixture was stirred at the internal temperature of 140° C. for 3 hours, and then cooled to 70° C. The resulting insoluble material was separated by filtration. The filtrate was poured into water (1500 mL), and stirred at room temperature for 2 hours. The resulting precipitate was collected by filtration, washed with acetonitrile, and air-dried. The title compound was obtained as yellow solid (15.9 g, 85%).

reactant | 5-Nitro-6-bromo-1H,3H-benzo[de]isochromene | 78.2 mmol, 23.0 g | [N+](=O)([O-])C=1C(=C2C3=C(COCC3=CC=C2)C1)Br | C12H8BrNO3
reactant | copper (I) cyanide | 117 mmol, 10.5 g | [Cu]C#N
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | 5-Nitro-6-cyano-1H,3H benzo[de]isochromene | [N+](=O)([O-])C=1C(=C2C3=C(COCC3=CC=C2)C1)C#N | C13H8N2O3
